US06682782B2
Thereafter, to 200 ml of diisopropylamine were added 15.54 g (0.032 mol of tri(4-bromophenyl)amine, 1.35 g (1.92 mmol) of bis[triphenylphosphin]palladium dichloride and 9.43 g (0.96 mmol) of copper iodide. After the reaction mixture was stirred for 2 h at room temperature, 9.43 g, (96 mmol) of trimethylsilyl acetylene was slowly added to the reaction mixture. The reaction mixture was refluxed for 8 h and cooled. Solvent was removed under the reduced pressure. The residue was extracted with benzene and the benzene layer was washed with distilled water. The washed benzene layer was concentrated to give 13.84 g (81%) of tri(4-trimethylsilylethynylphenyl)amine.

reactant | tri(4-bromophenyl)amine | 0.032 mol | BrC1=CC=C(C=C1)N(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C18H12Br3N
reactant | trimethylsilyl acetylene | 96 mmol | C[Si](C)(C)C#C | C5H10Si
catalyst | copper iodide | 0.96 mmol, 9.43 g | [Cu](I)I
solvent | diisopropylamine | 200 ml | C(C)(C)NC(C)C | C6H15N
product | tri(4-trimethylsilylethynylphenyl)amine | 13.84 g, 81% | C[Si](C)(C)C#CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C#C[Si](C)(C)C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C33H39NSi3
